US06881736B1
(c) Ethyl (S)-4-(4-methoxyphenyl)-3-(pyridin-3-yl)butanoate
A solution of 21% NaOEt in EtOH (18.4 mL, 56.88 mmole) was added to a solution of (4 R, 5 S)-3,4-dimethyl-1-[(S)-4-(4-methoxyphenyl)-3-(pyridin-3-yl)butanoyl]-5-phenylimidazolidin-2-one (19.408 g, 43.8 mmole) in THF (200 mL) at 0° C. The reaction was stirred for 1 hr, then was quenched with saturated NH4Cl and extracted with EtOAc (3×). The combined organic layers were dried (MgSO4) and concentrated. The residue was taken up in 1:1 EtOAc/hexanes and filtered, and the filtrate was filtered through a plug of silica gel (1:1 EtOAc/hexanes). The filtrate was concentrated to afford the title compound (9.25 g, 71%) as an orange oil: 1H NMR (400 MHz, CDCl3) δ 8.57 (br s, 2 H), 7.44 (narrow m, 1 H), 7.17-7.25 (m, 1 H), 6.95 (d, J=8.6 Hz, 2 H), 6.76 (d, J=8.6 Hz, 2 H), 4.01 (q, J=7.1 Hz. 2 H), 3.75 (s, 3 H), 3.33-3.48 (m, 1 H), 2.91 (dd, J=13.7, 7.3 Hz, 1H), 2.85 (dd, J=13.7, 7.8 Hz, 1 H), 2.71 (dd, J=15.6, 6.5 Hz, 1 H), 2.61 (dd, J=15.6, 8.7 Hz, 1 H), 1.13 (t, J=7.1 Hz, 3 H); MS (ES) m/e 300 (M+H)+.

reactant | NaOEt | CC[O-].[Na+]
reactant | EtOH | 56.88 mmole, 18.4 mL | CCO | C2H6O
reactant | 3,4-dimethyl-1-[(S)-4-(4-methoxyphenyl)-3-(pyridin-3-yl)butanoyl]-5-phenylimidazolidin-2-one | 43.8 mmole, 19.408 g | CN1C(N(C(C1C)C1=CC=CC=C1)C(C[C@H](CC1=CC=C(C=C1)OC)C=1C=NC=CC1)=O)=O | C27H29N3O3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Ethyl (S)-4-(4-methoxyphenyl)-3-(pyridin-3-yl)butanoate | 9.25 g, 71% | COC1=CC=C(C=C1)C[C@@H](CC(=O)OCC)C=1C=NC=CC1 | C18H21NO3
